US05624600
4 mg of lithium chloride and 1.0 ml of DMF were placed in a 20 ml-three necked flask. Under refluxing and stirring in nitrogen atmosphere, a solution of 0.97 g (3.92 mM) of 4-octyloxyphenyl isocyanate and 0.80 g (3.92 mM) of (-)-4-hexylstyrene oxide in 1.8 ml of DMF was added dropwise to the mixture in 5 minutes, followed by refluxing for 5 minutes under stirring. After the reaction, the reaction mixture was cooled to room temperature and poured into ice water to precipitate a crystal. The crystal was recovered by filtration, washed with water and dissolved in a toluene-ethyl acetate mixture solvent, followed by drying with anhydrous sodium sulfate and evaporation under reduced pressure to obtain a residue. The residue was purified by silica gel column chromatography and recrystallized from an acetone/methanol mixture solvent to obtain 0.25 g of optically active 3-(4-octylphenyl)-5-(4-hexylphenyl)-2-oxazolidinone (Yield: 14.1%). This compound showed the following phase transition series.

reactant | lithium chloride | 4 mg | [Cl-].[Li+]
reactant | 4-octyloxyphenyl isocyanate | 3.92 mM, 0.97 g | C(CCCCCCC)OC1=CC=C(C=C1)N=C=O | C15H21NO2
reactant | (-)-4-hexylstyrene oxide | 3.92 mM, 0.80 g | C(CCCCC)C1=CC=C(C2CO2)C=C1 | C14H20O
solvent | DMF | 1.8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | 3-(4-octylphenyl)-5-(4-hexylphenyl)-2-oxazolidinone | Yield: 14.1% | C(CCCCCCC)C1=CC=C(C=C1)N1C(OC(C1)C1=CC=C(C=C1)CCCCCC)=O | C29H41NO2
